US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(3-trifluoromethylphenyl)-4,5,6,7-tetrahydroindole ##SPC43##
A mixture of 12.0 g. (0.042 mole) of 2-(m-trifluoromethylphenacyl)cyclohexanone, 6.45 g. (0.042 mole) of 5-aminosalicylic acid, and 30 ml. of glacial acetic acid was heated under reflux for 4 hours and filtered. The filtrate was diluted with water and the supernatant was decanted from the oil which separated. Trituration with cyclohexane gave 7.7 g. of solid, m.p. 215°-225°. Recrystallization from isopropyl alcohol-water afforded 4.1 g. (47%) of crystals, m.p. 223°-225°.

reactant | 2-(m-trifluoromethylphenacyl)cyclohexanone | 0.042 mole | FC(C=1C=C(C(CC2C(CCCC2)=O)=O)C=CC1)(F)F | C15H15F3O2
reactant | 5-aminosalicylic acid | 0.042 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(3-trifluoromethylphenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC(=CC=C1)C(F)(F)F | C22H18F3NO3
